US07241887B2
8-(3-Amino-phenyl)-3-aza-bicyclo[3.2.1]octane-3-carboxylic acid benzyl ester
8-[3-(Trifluoro-methanesulfonyloxy)-phenyl]-3-aza-bicyclo[3.2.1]octane-3-carboxylic acid benzyl ester (800 mg, theoretical amount 1.24 mmol) was azeotroped with THF (2×20 mL) then dissolved in anhydrous THF (10 mL) with benzophenone imine (0.260 mL, 1.55 mmol), cesium carbonate (606 mg, 1.86 mmol) and BINAP (racemic, 77 mg, 0.12 mmol). The reaction vessel was degassed (evac./N2 purge 3×) before charging with palladium (II) acetate (28 mg, 0.12 mmol). The reaction was warmed to 80° C. 18 h, at which point it was judged complete by APCI MS. To this was added fresh THF (10 mL) followed by 2N HCl (5 mL) and this solution was allowed to stir at room temperature 30 min. The reaction mixture was neutralized with saturated aqueous NaHCO3 solution. The product was extracted with EtOAc (3×30 mL), washed with saturated aqueous NaCl solution (1×30 mL), dried over Na2SO4 and concentrated to give the crude product. Flash chromatography provided the title compound as a thick yellow oil (236 mg, 57%). (TLC 30% EtOAc/hexanes Rf 0.15). 1H NMR (400 MHz, CDCl3) δ 7.35 (m, 2H), 7.30 (m, 3H), 7.10 (m, 1H), 6.65 (m, 1H), 6.55 (m, 2H), 5.15 (s, 2H), 4.07 (dd, J=12.5, 2.5 Hz, 1H), 3.99 (dd, J=12.5, 2.5 Hz, 1H), 3.13 (d, J=12.5 Hz, 1H), 3.08 (d, J=12.5 Hz, 1H), 2.86 (s, 1H), 2.55 (brs, 1H), 2.48 (br s, 1H), 1.69 (m, 2H), 1.52 (m, 2H). APCI MS m/z 338.1 (M+1)+; 378.3 (M+CH3CN)+.

reactant | 8-[3-(Trifluoro-methanesulfonyloxy)-phenyl]-3-aza-bicyclo[3.2.1]octane-3-carboxylic acid benzyl ester | 1.24 mmol, 800 mg | C(C1=CC=CC=C1)OC(=O)N1CC2CCC(C1)C2C2=CC(=CC=C2)OS(=O)(=O)C(F)(F)F | C22H22F3NO5S
reactant | benzophenone imine | 1.55 mmol, 0.260 mL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | cesium carbonate | 1.86 mmol, 606 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | BINAP | 0.12 mmol, 77 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | HCl | 2N, 5 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | palladium (II) acetate | 0.12 mmol, 28 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 8-(3-Amino-phenyl)-3-aza-bicyclo[3.2.1]octane-3-carboxylic acid benzyl ester | 236 mg, 57% | C(C1=CC=CC=C1)OC(=O)N1CC2CCC(C1)C2C2=CC(=CC=C2)N | C21H24N2O2
